US09284331B2
Step 2: 2-(3-cyclopropyl-1H-1,2,4-triazol-1-yl)-9-(5-fluoropyridin-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 133. A suspension of 2-(3-cyclopropyl-1H-1,2,4-triazol-1-yl)-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (95 mg, 0.21 mmol), 2-bromo-5-fluoropyridine (79 mg, 0.45 mmol) and PdCl2(dppf)*CH2Cl2 (17 mg, 0.021 mmol) in DME (2.1 mL) was treated with a 2M aq. solution of Na2CO3 (0.5 mL, 1.06 mmol). The mixture was heated to 80° C. for 13 h, the allowed to cool to RT and poured onto H2O. The mixture was extracted with DCM and the combined org. layers were washed with brine, dried over over Na2SO4, filtered and concentrated in vacuo. Purification by SFC (Column: Silica 5 μm, 250×30 mm, Princeton; isocratic 5% MeOH/CO2 for 20 min; flow 100 mL/min) gave the title compound (19 mg). UPLC-MS: MS 415.2 (M+H+); UPLC rt 1.02 min. 1H NMR (600 MHz, DMSO-d6): δ ppm 0.71-0.90 (m, 2H); 0.90-1.00 (m, 2H); 1.91-2.09 (m, 1H); 2.91-3.09 (m, 2H); 3.73 (t, J=6.24 Hz, 2H); 4.33 (s, 2H); 7.06 (s, 1H); 7.40-7.56 (m, 1H); 7.66 (d, J=7.70 Hz, 1H); 7.73 (dd, J=8.71, 4.68 Hz, 1H); 7.83-8.01 (m, 2H); 8.73 (d, J=2.75 Hz, 1H); 9.03 (s, 1H).

reactant | 2-(3-cyclopropyl-1H-1,2,4-triazol-1-yl)-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.21 mmol, 95 mg | C1(CC1)C1=NN(C=N1)C1=NCC(N2C(C3=CC=CC(=C3CC2)B2OC(C(O2)(C)C)(C)C)=C1)=O | C24H28BN5O3
reactant | 2-bromo-5-fluoropyridine | 0.45 mmol, 79 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | Na2CO3 | 1.06 mmol, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2.1 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 0.021 mmol, 17 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3-cyclopropyl-1H-1,2,4-triazol-1-yl)-9-(5-fluoropyridin-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 19 mg | C1(CC1)C1=NN(C=N1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C2=NC=C(C=C2)F)=C1)=O | C23H19FN6O
